US09303033B2
To 4-amino-3-chlorobenzonitrile (52 mg, 0.34 mmol), Cs2CO3 (130 mg, 0.4 mmol) were added to tert-butyl 5-chloro-3-formyl-6-methylpyrazolo[1,5-a]pyrimidin-7-yl(cyclopropyl)carbamate (100 mg, 0.29 mmol) dissolved in 1,4-dioxane (1.1 mL). Racemic BINAP (11 mg, 0.017 mmol) and palladium(II) acetate (8 mg, 0.011 mmol) were then added. The mixture was sealed and irradiated at 110° C. for 60 min in the microwave. Et2O (3 mL) was added and the solution was filtered. The filtrate was concentrated in vacuo. The crude residue was dissolved in dichloromethane (1.5 mL) and trifluoroacetic acid (1.5 mL). After stirring at room temperature for 1 hour, the solution was concentrated under a stream of air. The crude material was purified by silica gel chromatography (3% acetone/dichloromethane) to yield the product, 3-chloro-4-(7-(cyclopropylamino)-3-formyl-6-methylpyrazolo[1,5-a]pyrimidin-5-ylamino)benzonitrile (34 mg, 33% yield). LCMS (M+1=367)

reactant | 4-amino-3-chlorobenzonitrile | 0.34 mmol, 52 mg | NC1=C(C=C(C#N)C=C1)Cl | C7H5ClN2
reactant | Cs2CO3 | 0.4 mmol, 130 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | tert-butyl 5-chloro-3-formyl-6-methylpyrazolo[1,5-a]pyrimidin-7-yl(cyclopropyl)carbamate | 0.29 mmol, 100 mg | ClC1=NC=2N(C(=C1C)N(C(OC(C)(C)C)=O)C1CC1)N=CC2C=O | C16H19ClN4O3
reactant | BINAP | 0.017 mmol, 11 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | 1,4-dioxane | 1.1 mL | O1CCOCC1 | C4H8O2
catalyst | palladium(II) acetate | 0.011 mmol, 8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Et2O | 3 mL | CCOCC | C4H10O
product | 3-chloro-4-(7-(cyclopropylamino)-3-formyl-6-methylpyrazolo[1,5-a]pyrimidin-5-ylamino)benzonitrile | 34 mg, 33% yield | ClC=1C=C(C#N)C=CC1NC1=NC=2N(C(=C1C)NC1CC1)N=CC2C=O | C18H15ClN6O
